US06649643B1
Production of (6-tert-Butyldimethylsilyloxy-2-naphthyl)(1-trityl-1H-imidazol-4-yl)methanol
In a similar manner to that described in Reference example 1, the reaction was carried out by using 6-bromo-2-tert-butyldimethylsilyloxynaphthalene (50.0 g) and 4-formyl-1-trityl-1H-imidazole (38.6 g) to give the titled compound (49.8 g) as a colorless powder.

reactant | 6-bromo-2-tert-butyldimethylsilyloxynaphthalene | 50.0 g | BrC=1C=C2C=CC(=CC2=CC1)O[Si](C)(C)C(C)(C)C | C16H21BrOSi
reactant | 4-formyl-1-trityl-1H-imidazole | 38.6 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
product | (6-tert-Butyldimethylsilyloxy-2-naphthyl)(1-trityl-1H-imidazol-4-yl)methanol | 49.8 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H40N2O2Si
